US07081531B2
2-Hydroxy-4-nitro-benzoic acid methyl ester (14 g) was dissolved in EtOH (100 ml) and THF (10 ml) and stirred under hydrogen (1 atm) in the presence of PtO2 for 24 h. The reaction mixture was then filtered through a celite bed. The filtrate was concentrated to give 12 g of 4-Amino-2-hydroxy-benzoic acid methyl ester as a light yellow solid.

reactant | 2-Hydroxy-4-nitro-benzoic acid methyl ester | 14 g | COC(C1=C(C=C(C=C1)[N+](=O)[O-])O)=O | C8H7NO5
reactant | THF | 10 ml | C1CCOC1 | C4H8O
solvent | EtOH | 100 ml | CCO | C2H6O
catalyst | PtO2 | O=[Pt]=O
product | 4-Amino-2-hydroxy-benzoic acid methyl ester | 12 g | COC(C1=C(C=C(C=C1)N)O)=O | C8H9NO3
